US08309602B2
5-Chloro-N1-(4′-cyanophenyl)-2,4-dinitroaniline (IV-1)
2,4-Dichloro-1,5-dinitrobenzene (II-1, 1.2 g, 5 mmol) and p-cyanoaniline (III-1, 0.59 g, 5 mmol) were dissolved in N,N-dimethylformamide (DFM, 10 ml). To the solution was added potassium tert-butoxide (1.4 g, 12.5 mmol) in batches in ice water bath. The mixture was allowed to react at room temperature for 45 minutes. The reaction liquid was poured into ice water. The pH value was adjusted to about 6 with dilute hydrochloric acid. The mixture was stirred for 30 minutes to precipitate a solid. The solid was filtered, washed with water to neutrality, dried, and separated on silica gel column (eluted with ethyl acetate: petroleum ether) to obtain a compound VI-1 (1.44 g, faint yellow solid). 1H NMR (CDCl3) δ ppm 7.41 (1H, s, ArH-6), 7.57 (2H, d, J=8.7 Hz, ArH-3′, 5′), 7.91 (2H, d, J=8.7 Hz, ArH-2′, 6′), 8.90 (1H, s, ArH-3), 10.07 (1H, s, NH).

reactant | 2,4-Dichloro-1,5-dinitrobenzene | 5 mmol, 1.2 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C6H2Cl2N2O4
reactant | p-cyanoaniline | 5 mmol, 0.59 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | potassium tert-butoxide | 12.5 mmol, 1.4 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-N1-(4′-cyanophenyl)-2,4-dinitroaniline | ClC=1C(=CC(=C(NC2=CC=C(C=C2)C#N)C1)[N+](=O)[O-])[N+](=O)[O-] | C13H7ClN4O4
